US08809267B2
Amino-(tetrahydro-pyran-4-yl)-acetic acid (80 mg, 0.5 mmol) was dissolved in CH3CN (5 mL) and H2O (1 mL), carbonic acid 4-nitro-phenyl ester 2,2,2-trifluoro-1,1-dimethyl-ethyl ester (175 mg, 0.6 mmol) and DIEA (88 μL, 0.5 mmol) were added slowly. The reaction was allowed to stir at room temperature for 16 h. After concentrated, diluted with EtOAc, washed with brine and H2O, dried over Na2SO4, the crude product was purified on silica (12 g, 25-75% EtOAc/hexanes) to give intermediate (tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-1,1-dimethyl-ethoxycarbonylamino)-acetic acid as light yellow solid (110 mg, 70%).

reactant | Amino-(tetrahydro-pyran-4-yl)-acetic acid | 0.5 mmol, 80 mg | NC(C(=O)O)C1CCOCC1 | C7H13NO3
reactant | carbonic acid 4-nitro-phenyl ester 2,2,2-trifluoro-1,1-dimethyl-ethyl ester | 0.6 mmol, 175 mg | FC(C(C)(C)OC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)(F)F | C11H10F3NO5
reactant | DIEA | 0.5 mmol, 88 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | H2O | 1 mL | O | H2O
product | (tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-1,1-dimethyl-ethoxycarbonylamino)-acetic acid | 110 mg, 70% | O1CCC(CC1)C(C(=O)O)NC(=O)OC(C(F)(F)F)(C)C | C12H18F3NO5
